US05719275
4-Nitrobenzyl (1R,5S,6S)-2-[(3S,5S)-5-dimethylcarbamoyl-1-(4-nitrobenzyloxycarbonyl)-3-pyrrolidinylthio]-1-methyl-6-[1(R)-hydroxyethyl]-1-carbapen-2-em-3-carboxylate
8 mg (0.039 mmol) of citric acid hydrate were added to 2 ml of a solution containing 55 mg of 4-nitrobenzyl (1R,5S,6S)-2-[(3S,5S)-5-dimethylcarbamoyl-1-(4-nitrobenzyloxycarbonyl)-3-pyrrolidinylthio]-1-methyl-6-[1(R)-trimethylsilyloxyethyl]-1-carbapen-2-em-3-carboxylate (prepared as described in Example 18)in methanol, and the resulting mixture was stirred at room temperature for 35 minutes. At the end of this time, the solvent was removed by distillation under reduced pressure, and the residue was purified by column chromatography through 5 g of silica gel, using a 1:9 by volume mixture of methanol and ethyl acetate as the eluent, to give 42 mg (yield 84%) of the title compound as a vitreous solid.

reactant | citric acid hydrate | 0.039 mmol, 8 mg | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
reactant | 4-nitrobenzyl (1R,5S,6S)-2-[(3S,5S)-5-dimethylcarbamoyl-1-(4-nitrobenzyloxycarbonyl)-3-pyrrolidinylthio]-1-methyl-6-[1(R)-trimethylsilyloxyethyl]-1-carbapen-2-em-3-carboxylate | 55 mg | CN(C(=O)[C@@H]1C[C@@H](CN1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O[Si](C)(C)C)=O)C)C | C35H43N5O11SSi
solvent | methanol | CO | CH4O
product | 4-Nitrobenzyl (1R,5S,6S)-2-[(3S,5S)-5-dimethylcarbamoyl-1-(4-nitrobenzyloxycarbonyl)-3-pyrrolidinylthio]-1-methyl-6-[1(R)-hydroxyethyl]-1-carbapen-2-em-3-carboxylate | 42 mg, yield 84% | CN(C(=O)[C@@H]1C[C@@H](CN1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)C | C32H35N5O11S
